US08957214B2
Next, 20 mL of ethylenediamine was added to 2.0 g (12.4 mmol) of 2-chloro-5-chloromethylpyridine, and the mixture was stirred overnight. Following reaction completion, the reaction mixture was concentrated under reduced pressure, after which acetonitrile was added and insoluble matter were removed by filtration. The filtrate was concentrated under reduced pressure, giving 2.45 g (yield, 100%) of N-((6-chloropyridin-3-yl)methyl)ethane-1,2-diamine.

reactant | 2-chloro-5-chloromethylpyridine | 12.4 mmol, 2.0 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | ethylenediamine | 20 mL | C(CN)N | C2H8N2
product | N-((6-chloropyridin-3-yl)methyl)ethane-1,2-diamine | 2.45 g, 100% | ClC1=CC=C(C=N1)CNCCN | C8H12ClN3
